US04178449
4-(α,α,α-Trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carbonitrile
A mixture of 1.0 g. of 8-bromo-4-(α,α,α-trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine, 0.45 g. of cuprous cyanide and 25 ml. of N,N-dimethylformamide is refluxed for 16 hours. The solvent is removed under reduced pressure. The residue is extracted with methylene chloride and the solution passed through a column of hydrous magnesium silicate. The eluent is collected, concentrated and n-hexane added while heating. The product separates as crystals, m.p. 168°-169° C.

reactant | 8-bromo-4-(α,α,α-trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine | BrC=1N=CN2C1N=CC=C2C=2C=C(C=CC2)C(F)(F)F | C13H7BrF3N3
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(α,α,α-Trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carbonitrile | FC(C1=CC(=CC=C1)C1=CC=NC=2N1C=NC2C#N)(F)F | C14H7F3N4
